US04242507
Benzoic acid (2.4 g) is dissolved in dichloromethane (30 ml), and thereto are added triethylamine (2.8 ml) and further 1-(p-chlorobenzenesulfonyloxy)-6-chloro-1,2,3-benzotriazole (6.9 g) and the mixture is stirred for 4 hours. After the reaction, dichloromethane is distilled off and to the resulting residue are added water and ethyl acetate. The ethyl acetate layer is washed with water, an aqueous sodium hydrogen carbonate and water in order, dried over anhydrous magnesium sulfate and the solvent is distilled off to give white crystals of 1-benzoyloxy-6-chloro-1,2,3-benzotriazole (4.55 g). The product is recrystallized from ethanol to give pure product, melting point: 132° C.

reactant | Benzoic acid | 2.4 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(p-chlorobenzenesulfonyloxy)-6-chloro-1,2,3-benzotriazole | 6.9 g | ClC1=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)Cl | C12H7Cl2N3O3S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-benzoyloxy-6-chloro-1,2,3-benzotriazole | 4.55 g | C(C1=CC=CC=C1)(=O)ON1N=NC2=C1C=C(C=C2)Cl | C13H8ClN3O2
